US05114816
8-Methoxy-1-aminonaphthalene-4-sulfonic acid
8-Methoxy-1-acetylaminonaphthalene-4-sulfonic acid is suspended in 20%-strength hydrochloric acid and the suspension is heated under a reflux condenser while stirring at 90°-100° C. After approx 1-11/2 hours, the deacetylation is complete. The mixture is allowed to cool to 20°-25° C., the slightly pink-colored crystals are filtered off by suction, they are washed on the sintered disk filter funnel with water and then dried in a vacuum drying oven at 50°-60° C.

reactant | 8-Methoxy-1-acetylaminonaphthalene-4-sulfonic acid | COC=1C=CC=C2C(=CC=C(C12)NC(C)=O)S(=O)(=O)O | C13H13NO5S
reactant | hydrochloric acid | Cl | ClH
product | 8-Methoxy-1-aminonaphthalene-4-sulfonic acid | COC=1C=CC=C2C(=CC=C(C12)N)S(=O)(=O)O | C11H11NO4S
